US06294547B1
Synthesis of 2-aminobenzaldehyde
A solution of 2-nitrobenzaldehyde (50 g, 0.33 mol) in tetrahydrofuran (0.33 liter) was added dropwise to an aqueous solution (1.2 liters) of sodium dithionite (230 g, 1.32 mols) and sodium carbonate (1.68 g, 1.59 mols) under ice-cooling over a period of 2 hours while maintaining the internal temperature at 10° C. or lower. After 30 minutes, the reaction solution was extracted with ethyl acetate and the extract solution was washed with water and then dried over anhydrous sodium sulfate. The organic solvent was removed by concentration under reduced pressure to obtain the desired compound (26 g, 64%) as an yellow oil.

reactant | 2-nitrobenzaldehyde | 0.33 mol, 50 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | sodium dithionite | 1.32 mols, 1.2 liters, 230 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 1.59 mols, 1.68 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 0.33 liter | O1CCCC1 | C4H8O
product | 2-aminobenzaldehyde | 26 g, 64% | NC1=C(C=O)C=CC=C1 | C7H7NO
